US06548671B2
Quinoxaline-2-carboxylic acid [1-benzyl-4-(4,5-dihydro-1H-imidazol-2-yl)-7-fluoro-2-hydroxy-7-methyl-octyl]-amide
To a solution of ethylenediamine (0.040 mL, 0.598 mmol) in toluene (2 mL) at −10° C. was added trimethylaluminum (2.0 M in hexanes, 0.300 mL, 0.600 mmol) and stirred for 15 minutes. A solution of quinoxaline-2-carboxylic acid {1-[4-(3-fluoro-3-methyl-butyl)-5-oxo-tetrahydro-furan-2-yl]-2-phenyl-ethyl}-amide (250 mg, 0.556 mmol) in toluene (3 mL) was then added and the reaction warmed to ambient temperature, then heated to reflux for 3 hours. The reaction was cooled to ambient temperature and quenched carefully with water (1 mL). The solution was diluted with methylene chloride and methanol and then filtered, washing the filtrate with methanol. The organics were concentrated and the crude product was purified by chromatography on silica gel to give the title compound (74 mg, 17%).

reactant | ethylenediamine | 0.598 mmol, 0.040 mL | C(CN)N | C2H8N2
reactant | trimethylaluminum | 0.600 mmol, 2.0 M, 0.300 mL | C[Al](C)C
reactant | quinoxaline-2-carboxylic acid {1-[4-(3-fluoro-3-methyl-butyl)-5-oxo-tetrahydro-furan-2-yl]-2-phenyl-ethyl}-amide | 0.556 mmol, 250 mg | FC(CCC1CC(OC1=O)C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)(C)C | C26H28FN3O3
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | Quinoxaline-2-carboxylic acid [1-benzyl-4-(4,5-dihydro-1H-imidazol-2-yl)-7-fluoro-2-hydroxy-7-methyl-octyl]-amide | 74 mg, 17% | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C=1NCCN1)O)NC(=O)C1=NC2=CC=CC=C2N=C1 | C28H34FN5O2
